US07915267B2
ethyl 6-methyl-4-oxo-3,4-dihydroquinazoline-2-carboxylate
To a suspension of ethyl ((2-(aminocarbonyl)-4-methylphenyl)amino)(oxo)acetate (4.90 g, 19.6 mmol) in ethanol (100 mL) was added dropwise sodium ethylate (20% ethanol solution, 7.33 g, 21.5 mmol) under ice-cooling, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into 0.25N hydrochloric acid (200 mL) under ice-cooling, and the precipitated insoluble material was collected by filtration. The filtered cake was washed with water and ethanol to give the title compound as a pale-orange powder (2.90 g, 64%).

reactant | ethyl ((2-(aminocarbonyl)-4-methylphenyl)amino)(oxo)acetate | 19.6 mmol, 4.90 g | NC(=O)C1=C(C=CC(=C1)C)NC(C(=O)OCC)=O | C12H14N2O4
reactant | sodium ethylate | 21.5 mmol, 7.33 g | CC[O-].[Na+]
reactant | hydrochloric acid | 0.25N, 200 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl 6-methyl-4-oxo-3,4-dihydroquinazoline-2-carboxylate | 2.90 g, 64% | CC=1C=C2C(NC(=NC2=CC1)C(=O)OCC)=O | C12H12N2O3
